US05500429
1-(3,4,5-Trimethoxyphenyl)-3-(2-pyridinyl)-2-propene-1-one
Combine 3,4,5-trimethoxyacetophenone (5.25 g, 25 mmol), 2-pyridinecarboxaldehyde (2 .35 mL, 25 mmol), piperidine (4.93 mL, 50 mmol), acetic acid (2.8 6 mL, 50 mmol) and ethanol (25 mL). Heat at reflux for 6 hour s, passing the distillate through a column of 3 Å molecular sieves (25 g). Dilute with ethyl acetate (600 mL), wash wit h saturated sodium hydrogen carbonate, then water, then saturated sodium chloride. Dry (MgSO4) and evaporate the solvent in vacuo. Purify by silica gel chromatography (70% ethyl acetate/hexane). Recrystallize (methylene chloride/ethyl ether/hexane) to yield the title compound; mp 94°-5° C.

reactant | 3,4,5-trimethoxyacetophenone | 25 mmol, 5.25 g | CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H14O4
reactant | 2-pyridinecarboxaldehyde | 25 mmol, .35 mL | N1=C(C=CC=C1)C=O | C6H5NO
reactant | piperidine | 50 mmol, 4.93 mL | N1CCCCC1 | C5H11N
reactant | acetic acid | 50 mmol, 6 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 600 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 1-(3,4,5-Trimethoxyphenyl)-3-(2-pyridinyl)-2-propene-1-one | COC=1C=C(C=C(C1OC)OC)C(C=CC1=NC=CC=C1)=O | C17H17NO4
